US07319098B2
Synthesis of 1-(2-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-piperidinium chloride (Compound 81)
2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-piperidin-1-yl-ethylamine (113 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 135 mg (92%) was obtained by following the procedure described in Example 1.

reactant | 2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC1 | C16H10ClNO4
reactant | 2-piperidin-1-yl-ethylamine | 0.792 mmol, 113 μL | N1(CCCCC1)CCN | C7H16N2
product | 1-(2-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-piperidinium chloride | [Cl-].ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCCCC2)=O)C=CC1 | InChI=1S/C23H24ClN3O3.ClH/c24-18-6-4-5-16(13-18)15-27-22(29)19-8-7-17(14-20(19)23(27)30)21(28)25-9-12-26-10-2-1-3-11-26;/h4-8,13-14H,1-3,9-12,15H2,(H,25,28);1H
